US08067445B2
Step 4: (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
2-Bromo-5-trifluoromethyl-benzaldehyde (4.152 g, 16.41 mmol), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]acetic acid methyl ester (4.988 g, 16.41 mmol), and potassium carbonate (5.67 g, 41.03 mmol) were combined in DME (40 mL) and H2O (20 mL) under N2. The mixture was purged with N2, and then tetrakis(triphenylphosphine)palladium(0) (1.9 g, 1.64 mmol) was added, and the reaction was heated to 90° C. for 10 hours. Once no starting material was seen by analytical LCMS, the mixture was cooled to room temperature and diluted with CH2Cl2 and H2O. The aqueous layer was separated and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | 2-Bromo-5-trifluoromethyl-benzaldehyde | 16.41 mmol, 4.152 g | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]acetic acid methyl ester | 16.41 mmol, 4.988 g | COC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO5
reactant | potassium carbonate | 41.03 mmol, 5.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 40 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.64 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 20 mL | O | H2O
product | (2′-Formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C18H15F3O4
